US07138426B2
Step 3: (2S)-2-[(3R)-3-methylpyrrolidin-1-yl]propan-1-ol.
Lithium aluminum hydride (96 mL of 1.0 M solution in ether, 0.096 moles) was added to a cold (ice bath) solution of (3R)-1-[(1S)-2-hydroxy-1-methylethyl]-3-methylpyrrolidine-2,5-dione (8.26 g, 0.048 moles) in anhydrous ether (565 mL). The cold bath was removed and the resulting mixture was stirred at room temperature for 17 hours. The resulting mixture was cooled in an ice bath as water (3.7 mL) was added slowly dropwise (CALIMON: vigorous reaction, gas evolution) followed by 15% NaOH (3.7 mL) and additional water (11.0 mL). The resulting mixture was stirred vigorously for 15 minutes then sonicated for 15 minutes and filtered. The collected solid was washed with ether (2×125 mL; stirred vigorously for 15 minutes then sonicated 15 minutes and filtered) and the combined filtrates were dried (MgSO4), filtered, and evaporated to a light yellow oil (5.76 g). The crude product was purified by flash chromatography on silica gel (65×222 mm column) eluted with 10:7:2:1 ethyl acetate:hexane:methanol:triethylamine collecting 50 mL fractions after a forerun of 750 mL to afford the pure product (in fractions 6–50) as a light yellow liquid. 1H NMR: (CDCl3, 600 M) δ 3.54 & 3.32 (2H, 2 dd, J=5, 10 Hz, H1), 3.30 (1H, br s, OH), 2.83 & 2.11 (2H, 2 dd, J=8, 8 Hz, H2′), 2.62–2.67 & 2.54–2.59 (2H, 2m, H5′), 2.65–2.68 (2H, m, H2), 2.15–2.24 (1H, m, H3′), 1.92–1.98 & 1.28–1.34 (2H, 2m, H4′), 1.00 (6H, d, J=7 Hz, 2CH3s); 13C NMR: (CDCl3, 150 MHz) δ 64.54, 58.02, 57.46, 48.87, 32.45, 31.67, 20.24, 12.49; MS (electrospray): m/e 144 (M+H). [α]D−0.5° (c=1.0 in MeOH).

reactant | Lithium aluminum hydride | 0.096 moles, 1.0 M, 96 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3R)-1-[(1S)-2-hydroxy-1-methylethyl]-3-methylpyrrolidine-2,5-dione | 0.048 moles, 8.26 g | OC[C@H](C)N1C([C@@H](CC1=O)C)=O | C8H13NO3
reactant | NaOH | 3.7 mL | [OH-].[Na+]
reactant | water | 11.0 mL | O | H2O
solvent | ether | 565 mL | CCOCC | C4H10O
solvent | MeOH | CO | CH4O
product | (2S)-2-[(3R)-3-methylpyrrolidin-1-yl]propan-1-ol | C[C@H]1CN(CC1)[C@H](CO)C | C8H17NO
